US09290454B2
NaH (0.382 g, 9.56 mmol) was added to a stirred, 0° C. mixture of dimethyl 2-(2-((4-fluorophenyl)amino)-2-oxoethyl)terephthalate (1.65 g, 4.78 mmol) in tetrahydrofuran (100 mL) and the mixture was stirred at 0° C. for 90 min. which turned into a red solution. The mixture was diluted with ethyl acetate (30 mL), washed with hydrochloric acid (0.5 M, 1×15 mL), water (10 mL), and brine (20 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to give methyl 2-(4-fluorophenyl)-1,3-dioxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate (1.5 g, 4.79 mmol) as a white solid.

reactant | NaH | 9.56 mmol, 0.382 g | [H-].[Na+]
reactant | dimethyl 2-(2-((4-fluorophenyl)amino)-2-oxoethyl)terephthalate | 4.78 mmol, 1.65 g | FC1=CC=C(C=C1)NC(CC1=C(C(=O)OC)C=CC(=C1)C(=O)OC)=O | C18H16FNO5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(4-fluorophenyl)-1,3-dioxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate | 4.79 mmol, 1.5 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1=O)C(=O)OC)=O | C17H12FNO4
